US07365225B2
Step e) Formation of 5-[(3-cyclopentylpropanoyl)(4-{[(4-phenoxybenzyl)amino]carbonyl}-benzyl)amino]-2-hydroxybenzoic acid
To a solution of 4-{[(3-cyclopentylpropanoyl)(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)amino]methyl}-N-(4-phenoxybenzyl)benzamide (200 mg) in EtOH (3 mL) was added an aqueous solution (0.071 mL, 1N). The mixture was heated at 70° C. for 3 h. After cooling to rt, an aqueous solution of HCl (2 mL, 1N) was added and the resulting reaction mixture was extracted (EtOAc). The combined organic layers were washed with water, brine, dried over MgSO4, filtered and evaporated to give the title compound as a white powder (160 mg, 85%). 1H NMR (DMSO-d) δ 8.99 (t, J=6.0 Hz, 1H), 7.82 (d, J=8.2 Hz, 2H), 7.50 (d, J=2.6 Hz, 1H), 7.42-7.06 (m, 8H), 7.03-6.89 (m, 5H), 4.85 (s, 2H), 4.45 (s, 1H), 4.43 (s, 1H), 3.40 (brs, 1H), 2.05 (t, J=7.5 Hz, 2H), 1.70-1.32 (m, 9H), 1.00-0.81 (m, 2H). M+(ESI): 593.0; M−(ESI): 591.0. HPLC, Rt: 4.9 min purity: 99.3%).

reactant | 4-{[(3-cyclopentylpropanoyl)(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)amino]methyl}-N-(4-phenoxybenzyl)benzamide | 200 mg | C1(CCCC1)CCC(=O)N(C1=CC2=C(OC(OC2=O)(C)C)C=C1)CC1=CC=C(C(=O)NCC2=CC=C(C=C2)OC2=CC=CC=C2)C=C1 | C39H40N2O6
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | EtOH | 3 mL | CCO | C2H6O
product | 5-[(3-cyclopentylpropanoyl)(4-{[(4-phenoxybenzyl)amino]carbonyl}-benzyl)amino]-2-hydroxybenzoic acid | 160 mg, 85% | C1(CCCC1)CCC(=O)N(C=1C=CC(=C(C(=O)O)C1)O)CC1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C36H36N2O6
